* 12V to 5V synchronous buck, 100W
* M2 replaces freewheel diode; Rbleed needed because sw has no static path
Vin in 0 12
M1 in gate sw 0 NMOS W=1 L=1
M2 sw gate2 0 0 NMOS W=1 L=1
L1 sw out 100u
C1 out 0 470u
Rload out 0 0.25
Rbleed sw 0 1Meg
Vgate  gate  0 PULSE(0 12 0    1n 1n 4.17u 10u)
Vgate2 gate2 0 PULSE(0 12 5.0u 1n 1n 4.83u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.tran 1n 5m
.probe V(*) I(*)
.end
